US07041685B2
3-(4-Acetamido-phenyl)-5-(3-chloro-thiophen-2-yl)-[1,2,4]-oxadiazole
The title compound was prepared from 4-acetamidobenz amidoxime (55.4 mg, 0.287 mmol) and 3-chloro-thiophene-2-carbonyl chloride (52.4 mg, 0.289 mmol) similar to Example 16, and yielded 33.6 mg (37%) of light orange solid. 1H NMR (CDCl3): 8.12 (d, J=8.52 Hz, 2H), 7.66 (d, J=8.79 Hz, 2H), 7.60 (d, J=5.22 Hz, 1H), 7.35 (s, 1H), 7.12 (d, J=5.22 Hz, 1H).

reactant | 4-acetamidobenz amidoxime | 0.287 mmol, 55.4 mg | C(C)(=O)NC1=CC=C(C(N)=NO)C=C1 | C9H11N3O2
reactant | 3-chloro-thiophene-2-carbonyl chloride | 0.289 mmol, 52.4 mg | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
product | 3-(4-Acetamido-phenyl)-5-(3-chloro-thiophen-2-yl)-[1,2,4]-oxadiazole | C(C)(=O)NC1=CC=C(C=C1)C1=NOC(=N1)C=1SC=CC1Cl | C14H10ClN3O2S
